US06753334B2
coupling said 5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carboxylic acid methyl ester with guanidine to form N-{5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carbonyl}-guanidine.

reactant | 5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carboxylic acid methyl ester | COC(=O)C=1C=NN(C1C1CC1)C1=C(C=C(C=C1)S(=O)(=O)C)Cl | C15H15ClN2O4S
reactant | guanidine | NC(=N)N | CH5N3
product | N-{5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carbonyl}-guanidine | C1(CC1)C1=C(C=NN1C1=C(C=C(C=C1)S(=O)(=O)C)Cl)C(=O)NC(=N)N | C15H16ClN5O3S
